US07414060B2
6-Methyl-3-(pyridin-3-ylamino)-pyridine-2-carboxylic acid (4-trifluoromethyl-thiazol-2-yl)-amide
The title compound, was prepared in accordance with the general method of example 4, step 2 using 4-Trifluoromethyl-thiazol-2-ylamine instead of 2-Chloro-4-aminopyridine to yield [6-Methyl-2-(4-trifluoromethyl-thiazol-2-ylcarbamoyl)-pyridin-3-yl]-carbamic acid tert-butyl ester as an off-white solid. MS (ISP): m/e=403.0 (M+H+). Boc-deprotection as described in example 4 step 3 yielded 3-Amino-6-methyl-pyridine-2-carboxylic acid (4-trifluoromethyl-thiazol-2-yl)-amide as an off-white solid, MS (ISP): m/e=303.0 (M+H+). Palladium catalysed arylation with 3-Bromopyridine as described in example 4 step 4 yielded the final product as a yellow solid, MS (ISP): m/e=380.0 (M+H+).

reactant | 3-Amino-6-methyl-pyridine-2-carboxylic acid (4-trifluoromethyl-thiazol-2-yl)-amide | FC(C=1N=C(SC1)NC(=O)C1=NC(=CC=C1N)C)(F)F | C11H9F3N4OS
reactant | 3-Bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
catalyst | Palladium | [Pd] | Pd
product | 6-Methyl-3-(pyridin-3-ylamino)-pyridine-2-carboxylic acid (4-trifluoromethyl-thiazol-2-yl)-amide | FC(C=1N=C(SC1)NC(=O)C1=NC(=CC=C1NC=1C=NC=CC1)C)(F)F | C16H12F3N5OS
